US04310527
1.6 g of palladium-on-charcoal catalyst are added to a solution of 15.5 g of 4-(3-benzylamino-2-hydroxypropoxy)benzimidazol-2-one in 160 ml of methanol, and the mixture is hydrogenated until the calculated amount of hydrogen has been absorbed. The catalyst is filtered off and the solvent distilled off to leave 4-(3-amino-2-hydroxypropoxy)-benzimidazol-2-one, which melts at 188°-190° after recrystallization from ethanol.

reactant | 4-(3-benzylamino-2-hydroxypropoxy)benzimidazol-2-one | 15.5 g | C(C1=CC=CC=C1)NCC(COC1=CC=CC2=NC(N=C21)=O)O | C17H17N3O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | 1.6 g | [Pd] | Pd
solvent | methanol | 160 ml | CO | CH4O
product | 4-(3-amino-2-hydroxypropoxy)-benzimidazol-2-one | NCC(COC1=CC=CC2=NC(N=C21)=O)O | C10H11N3O3
